US04727187
A 500 ml polytetrafluoroethylene reactor equipped with stirrer, thermometer and reflux condenser is charged with 24.7 g (0.094 mol) of 1,1-dichloro-2,2,2-trifluoroethylthiobenzene which are subsequently condensed with 50 g of hydrogen fluoride. 4.2 g (0.014 mol; corresponding to 15 mol%) of antimony pentachloride are added at a temperature of 20° C. The resultant hydrogen chloride is removed from the reactor through the reflux condenser. After 3 hours a further 1.4 g (5 mol%) and after 4 hours a further 2.8 g (10 mol%) of antimony pentachloride are added. After a total reaction time of 5 hours, the hydrogen fluoride is removed by distillation, the residue is dissolved in 150 ml of methylene chloride and the solution is extracted with water. The solution is separated by distillation, affording 1-chloro-1,2,2,2-tetrafluoroethylthiobenzene. Boiling point 178°-179° C., nD20 =1.4732.

reactant | 1,1-dichloro-2,2,2-trifluoroethylthiobenzene | 0.094 mol, 24.7 g | ClC1(C(C=CC=C1)SCC(F)(F)F)Cl | C8H7Cl2F3S
reactant | hydrogen fluoride | 50 g | F | FH
reactant | antimony pentachloride | 0.014 mol, 4.2 g | [Sb](Cl)(Cl)(Cl)(Cl)Cl
product | 1-chloro-1,2,2,2-tetrafluoroethylthiobenzene | ClC1=C(C=CC=C1)SC(C(F)(F)F)F | C8H5ClF4S
